### PR TITLE
[Merged by Bors] - feat: in a C⋆-algebra, if `1 ≤ a`, then `a ^ ·` is monotone

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean [hunk 1]
```diff
@@ -379,3 +383,34 @@ lemma isClosed_nonneg : IsClosed {a : A | 0 ≤ a} := by
...
 end CStar_nonunital
+
+section Pow
+
+namespace CStarAlgebra
+
+variable {A : Type*} [CStarAlgebra A] [PartialOrder A] [StarOrderedRing A]
+
+lemma pow_nonneg {a : A} (ha : 0 ≤ a) (n : ℕ) : 0 ≤ a ^ n := by
+  rw [← cfc_pow_id (R := ℝ≥0) a]
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean:394]: Do we want `by cfc_tac` as autoparam for `ha` here and below?

**Review by dupuisf — COMMENTED** [review]
Looks good!

bors d+
